US06713474B2
A mixture of ethyl 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propionate (425 mg), N,N-dimethylethylenediamine (2 ml) and methanol (20 ml) was boiled under reflux for 18 hours with the exclusion of carbon dioxide. The mixture was cooled and filtered, the filtrate was diluted with water (50 ml) and stirred with ether. The mixture was left standing for 18 hours and the solid which precipitated was collected by filtration, washed with water and then ether and dried to give N-(2-dimethylaminoethyl)-2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)propionamide, m.p. 163-164° C.

reactant | ethyl 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propionate | 425 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C(C(=O)OCC)C | C23H22N4O3
reactant | N,N-dimethylethylenediamine | 2 ml | CN(CCN)C | C4H12N2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | methanol | 20 ml | CO | CH4O
product | N-(2-dimethylaminoethyl)-2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)propionamide | CN(CCNC(C(C)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2)=O)C | C25H28N6O2
